US07750155B2
To a solution of (2E)-3-[5-({(3R)-1-(3-cyclohexylpropyl)-3-pyrrolidinyl}amino)-2-pyrazinyl]-N-(tetrahydro-2H-pyran-2-yloxy)acrylamide (151 mg) in EtOH (0.75 mL) was added 2N—HCl solution in EtOH (0.75 mL) and the reaction mixture was stirred for 2 hours at ambient temperature. The mixture was evaporated and acetone was added. The resulting solid was collected by filtration to give (2E)-3-[5-({(3R)-1-(3-cyclohexylpropyl)-3-pyrrolidinyl}amino)-2-pyrazinyl]-N-hydroxyacrylamide dihydrochloride (117 mg).

reactant | (2E)-3-[5-({(3R)-1-(3-cyclohexylpropyl)-3-pyrrolidinyl}amino)-2-pyrazinyl]-N-(tetrahydro-2H-pyran-2-yloxy)acrylamide | 151 mg | C1(CCCCC1)CCCN1C[C@@H](CC1)NC=1N=CC(=NC1)/C=C/C(=O)NOC1OCCCC1 | C25H39N5O3
reactant | HCl | Cl | ClH
solvent | EtOH | 0.75 mL | CCO | C2H6O
solvent | EtOH | 0.75 mL | CCO | C2H6O
product | (2E)-3-[5-({(3R)-1-(3-cyclohexylpropyl)-3-pyrrolidinyl}amino)-2-pyrazinyl]-N-hydroxyacrylamide dihydrochloride | 117 mg | Cl.Cl.C1(CCCCC1)CCCN1C[C@@H](CC1)NC=1N=CC(=NC1)/C=C/C(=O)NO | InChI=1S/C20H31N5O2.2ClH/c26-20(24-27)9-8-17-13-22-19(14-21-17)23-18-10-12-25(15-18)11-4-7-16-5-2-1-3-6-16;;/h8-9,13-14,16,18,27H,1-7,10-12,15H2,(H,22,23)(H,24,26);2*1H/b9-8+;;/t18-;;/m1../s1
